US03979354
I. Poly(tributyltin methacrylate/glycidyl methacrylate)
The reaction is carried out in a 300 ml, 3-necked flask equipped with a reflux condenser, a thermometer such that it reads the temperature of the vapor, and a magnetic stirrer. Tributyltin methacrylate (0.07 moles), glycidyl methacrylate (0.07 moles) and 2,2'-azobis(2-methylpropionitrile) (0.6% by weight) are reacted in 90 ml of toluene. The reaction is refluxed for 16 hours between 75°-80°C. The polymer is a clear, film forming resin which can be cured to a hard film by methanediamine (one equivalent of N-H is used for each equivalent of epoxide in the polymer) after 3 hours at 100°C.

reactant | Tributyltin methacrylate | 0.07 moles | C(C(=C)C)(=O)[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | glycidyl methacrylate | 0.07 moles | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | 2,2'-azobis(2-methylpropionitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | methanediamine | C(N)N | CH6N2
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | tributyltin methacrylate glycidyl methacrylate | C(C(=C)C)(=O)[O-].C(CCC)[Sn+](CCCC)CCCC.C(C(=C)C)(=O)OCC1CO1 | InChI=1S/C7H10O3.C4H6O2.3C4H9.Sn/c1-5(2)7(8)10-4-6-3-9-6;1-3(2)4(5)6;3*1-3-4-2;/h6H,1,3-4H2,2H3;1H2,2H3,(H,5,6);3*1,3-4H2,2H3;/q;;;;;+1/p-1
